US05102892
800 mg (=2.2 mmol) of 2-chloromethyl-8-methoxy-4(2-methylbenz-ylamino)quinoline hydrochloride were refluxed with 1.2 g (=22 mmol) of sodium methylate in 30 ml of absolute methanol for 5 hours The mixture was concentrated in a rotary evaporator, ethyl acetate was added, and the mixture was extracted several times with K2CO3 solution. The residue after drying over Na2SO4 and removal of the solvent was recrystallized from ethanol 200 mg (=28%) of 8-methoxy..2-methoxymethyl-4-(2-methylbenzylamino)quinoline of melting point 194-195° C. were obtained

reactant | 2-chloromethyl-8-methoxy-4(2-methylbenz-ylamino)quinoline hydrochloride | 2.2 mmol, 800 mg | Cl.ClCC1=NC2=C(C=CC=C2C(=C1)NCC1=C(C=CC=C1)C)OC
reactant | sodium methylate | 22 mmol, 1.2 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-methoxymethyl-4-(2-methylbenzylamino)quinoline | COCC1=NC2=CC=CC=C2C(=C1)NCC1=C(C=CC=C1)C | C19H20N2O
